US04108852
8-Chloro-5-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-one
20.4 g 8-chloro-1-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-one is stirred for 2 hours on a water bath with 12.8 g methyl iodide and 10 g anhydrous potassium carbonate. The inorganic material is removed by filtration under suction and the filtrate is diluted with 200 ml water. The crystalline precipitate is filtered under suction, washed with water, and recrystallized from alcohol. The yield is 20 g of the m.p. = 143°-144° C (93% of the theory).

reactant | 8-chloro-1-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-one | 20.4 g | ClC=1C=CC2=C(N(C(CCN2)=O)C2=CC=CC=C2)C1 | C15H13ClN2O
reactant | methyl iodide | 12.8 g | CI | CH3I
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
product | 8-Chloro-5-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-one | ClC=1C=CC2=C(N(C(CCN2C)=O)C2=CC=CC=C2)C1 | C16H15ClN2O
